US04374248
3-Amino-4-{2-[(5-guanidino-1,2,4-oxadiazol-3-yl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide
When a methanolic solution of 3,4-dimethoxy-1,2,5-thiadiazole 1-oxide is successively treated with an equimolar amount of 2-[(5-guanidino-1,2,4-oxadiazol-3-yl)methylthio]ethylamine and excess ammonia, the title compound is thereby produced.

reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1-oxide | COC1=NS(N=C1OC)=O | C4H6N2O3S
reactant | 2-[(5-guanidino-1,2,4-oxadiazol-3-yl)methylthio]ethylamine | N(C(=N)N)C1=NC(=NO1)CSCCN | C6H12N6OS
reactant | ammonia | N | H3N
product | 3-Amino-4-{2-[(5-guanidino-1,2,4-oxadiazol-3-yl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide | NC1=NS(N=C1NCCSCC1=NOC(=N1)NC(=N)N)=O | C8H13N9O2S2
